US08609688B2
To a solution of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (400 mg, 0.81 mmol) in DMF (8.1 mL)/water (0.45 mL), were added N,N-dimethyl-1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidine-4-carboxamide. (584 mg, 1.6 mmol), AMPHOS (58 mg, 0.08 mmol) and Na2CO3 (95 mg, 0.9 mmol). The mixture was heated at 160° C. for 1 h in microwave oven. The mixture was evaporated under reduced pressure and the residue was purified with silica gel column chromatography (hexane/ethyl acetate/methanol, 10:0:0 to 0:10:1) to give tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[4-(dimethylcarbamoyl)piperidin-1-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate. This compound was deprotected with methanol (15 mL) and 4M HCl in ethyl acetate (15 mL) for 18 h at rt. The mixture was solidified with diethyl ether and the solid was purified with HPLC and HCl was added to the fraction and evaporated then solidified with diethyl ether to give the titled compound (281 mg, 50%) as a white solid.

reactant | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.81 mmol, 400 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)Cl)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C26H27ClN6O2
reactant | N,N-dimethyl-1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidine-4-carboxamide | CN(C(=O)C1CCN(CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C20H31BN2O3
reactant | AMPHOS | 0.08 mmol, 58 mg | CC(CC1=CC=CC=C1)N.OP(=O)(O)O
reactant | Na2CO3 | 0.9 mmol, 95 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 8.1 mL | CN(C)C=O | C3H7NO
solvent | water | 0.45 mL | O | H2O
product | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[4-(dimethylcarbamoyl)piperidin-1-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)N2CCC(CC2)C(N(C)C)=O)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C40H46N8O3
